US04465844
3-[Acetylamino-di(ethoxycarbonyl)methyl]-2,5-dioxopyrrolidine
In 1 l of ethanol was dissolved 31.6 g of sodium, and following addition of 300 g of diethyl acetylaminomalonate at room temperature, the mixture was stirred for 2 hours. To the reaction mixture, a solution of 144.5 g of methyl 2-bromosuccinamate in ethanol (350 ml) was added dropwise under ice-cooling and the mixture was stirred under ice-cooling for one hour and then at room temperature for an additional one hour. This reaction mixture was concentrated under reduced pressure, followed by addition of 1 l portions of water and ethyl acetate, and stirred. The aqueous layer was separated and the ethyl acetate layer was further extracted with 500 ml of water. These aqueous layers were combined, washed with 1 l of ethyl acetate, adjusted to pH 1.5 with conc. hydrochloric acid and allowed to stand in a refrigerator. The resultant crystals were collected by filtration, washed with water and dried under reduced pressure. Yield 140 g.

reactant | sodium | 31.6 g | [Na] | Na
reactant | diethyl acetylaminomalonate | 300 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | methyl 2-bromosuccinamate | 144.5 g | BrC(C(=O)OC)CC(=O)N | C5H8BrNO3
solvent | ethanol | 1 l | C(C)O | C2H6O
solvent | ethanol | 350 ml | C(C)O | C2H6O
product | 3-[Acetylamino-di(ethoxycarbonyl)methyl]-2,5-dioxopyrrolidine | C(C)(=O)NC(C1C(NC(C1)=O)=O)(C(=O)OCC)C(=O)OCC | C13H18N2O7
